US07253158B2
4-{[(4-Chloro-benzenesulfonyl)-(2-oxo-5-trifluoromethyl-azepan-3-yl)-amino]-methyl}-3-fluoro-benzoic acid methyl ester (0.05 g, 0.09 mmol) in THF (1 ml) was added dropwise to a cooled (ice-bath) suspension of LiAlH4 (0.02 g, 0.44 mmol) in THF (1 ml) under an argon atmosphere. The cold bath was removed and the reaction mixture was further stirred for 3.5 h. Ethyl acetate and a KHSO4/K2SO4 buffer was added to the reaction mixture. The organic fraction was further washed with a KHSO4/K2SO4 (2×), water, brine, dried (Na2 SO4), filtered, concentrated under reduced pressure and purified using preparative RP(C18) chromatography to give 4-chloro-N-(2-fluoro-4-hydroxymethyl-benzyl)-N-(2-oxo-5-trifluoromethyl-azepan-3-yl)-benzenesulfonamide as a lyophilisate: 13 mg; MS: m/e=509.4 (MH+).

reactant | 4-{[(4-Chloro-benzenesulfonyl)-(2-oxo-5-trifluoromethyl-azepan-3-yl)-amino]-methyl}-3-fluoro-benzoic acid methyl ester | 0.09 mmol, 0.05 g | COC(C1=CC(=C(C=C1)CN(C1C(NCCC(C1)C(F)(F)F)=O)S(=O)(=O)C1=CC=C(C=C1)Cl)F)=O | C22H21ClF4N2O5S
reactant | LiAlH4 | 0.44 mmol, 0.02 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 4-chloro-N-(2-fluoro-4-hydroxymethyl-benzyl)-N-(2-oxo-5-trifluoromethyl-azepan-3-yl)-benzenesulfonamide | ClC1=CC=C(C=C1)S(=O)(=O)N(C1C(NCCC(C1)C(F)(F)F)=O)CC1=C(C=C(C=C1)CO)F | C21H21ClF4N2O4S
